US07405230B2
To a mixture of 103 mg of 1-butyl N-(2-(3-pyridyl)ethyl)-3-aminobenzoate (0.35 mmol) and 200 mg of 3-cyclopentyloxy-4-methoxyiodobenzene (0.63 mmol) in 5 mL of toluene was added 100 mg of sodium t-butoxide (1.0 mmol), 15 mg of tri-t-butylphosphonium tetrafluoroborate (0.05 mmol) and 25 mg of tris(dibenzylidineacetone)dipalladium(0) (0.028 mmol). The mixture was stirred for 16 h and filtered through celite. The celite was washed with 3×5 mL of toluene and the filtrate was concentrated in vacuo. The residue was purified by column chromatography using 30%-40% EtOAc in hexanes as eluant to give 48 mg of t-butyl N-(3-cyclopentyloxy-4-methoxyphenyl)-N-(2-(3-pyridyl)ethyl)-3-aminobenzoate.

reactant | 1-butyl N-(2-(3-pyridyl)ethyl)-3-aminobenzoate | 0.35 mmol, 103 mg | N1=CC(=CC=C1)CCNC=1C=C(C(=O)OCCCC)C=CC1 | C18H22N2O2
reactant | 3-cyclopentyloxy-4-methoxyiodobenzene | 0.63 mmol, 200 mg | C1(CCCC1)OC=1C=C(C=CC1OC)I | C12H15IO2
reactant | sodium t-butoxide | 1.0 mmol, 100 mg | CC(C)([O-])C.[Na+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.05 mmol, 15 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl N-(3-cyclopentyloxy-4-methoxyphenyl)-N-(2-(3-pyridyl)ethyl)-3-aminobenzoate | 48 mg | C1(CCCC1)OC=1C=C(C=CC1OC)N(C=1C=C(C(=O)OC(C)(C)C)C=CC1)CCC=1C=NC=CC1 | C30H36N2O4
